US08754079B2
228.3 4-[2-((1S,3S)-3-tert-Butoxycarbonylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid
A mixture of 4-[2-((1S,3S)-3-tert-butoxycarbonylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester (100 mg) and lithium hydroxide (133 mg) in THF/MeOH/H2O 1/1/1 (15 ml) was stirred at rt over the weekend. The reaction mixture was acidified with aq. HCl and extracted with DCM. The organic layer was dried, concentrated and the residue was triturated with diisopropyl ether to give the desired compound.

reactant | 4-[2-((1S,3S)-3-tert-butoxycarbonylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid methyl ester | 100 mg | COC(=O)C1=C(C2=C(N=CN=C2NC2=C(C=C(C=C2)F)O[C@@H]2C[C@H](CC2)NC(=O)OC(C)(C)C)S1)C | C25H29FN4O5S
reactant | lithium hydroxide | 133 mg | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF MeOH H2O | 15 ml | C1CCOC1.CO.O
product | 4-[2-((1S,3S)-3-tert-Butoxycarbonylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | C(C)(C)(C)OC(=O)N[C@@H]1C[C@H](CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C24H27FN4O5S
